US06835732B2
4-Hydroxymethyl-N-(4-methoxy-7-phenyl-benzothiazol-2-yl)-benzamide
To a solution of 4-formyl-N-(4-methoxy-7-phenyl-benzothiazol-2-yl)-benzamide (194 mg, 0.5 mmol), in THF (40 ml) was added sodium borohydride (19 mg, 0.5 mmol) and the mixture stirred for 2 h at r.t. Water was added (30 ml) followed by 1N HCl (4 ml) and the mixture agitated. The aqueous phase was then extracted twice with EtOAc (30 ml), the combined organic phases were then washed with saturated NaCl solution, dried with Na2SO4 filtered and evaporated. The crude residue was suspended in ether and ultrasonnicated for 10 min., the solid precipitate was filterted off, washed with ether then dried under vacuum (0.05 mmHg, 50° C.) to afford the title compound as a light yellow solid (150 mg, 77% yield), MS: m/e=390.0 (M+).

reactant | 4-formyl-N-(4-methoxy-7-phenyl-benzothiazol-2-yl)-benzamide | 0.5 mmol, 194 mg | C(=O)C1=CC=C(C(=O)NC=2SC3=C(N2)C(=CC=C3C3=CC=CC=C3)OC)C=C1 | C22H16N2O3S
reactant | sodium borohydride | 0.5 mmol, 19 mg | [BH4-].[Na+]
reactant | Water | O | H2O
reactant | HCl | 1N, 4 ml | Cl | ClH
solvent | THF | 40 ml | C1CCOC1 | C4H8O
product | 4-Hydroxymethyl-N-(4-methoxy-7-phenyl-benzothiazol-2-yl)-benzamide | 150 mg, 77% yield | OCC1=CC=C(C(=O)NC=2SC3=C(N2)C(=CC=C3C3=CC=CC=C3)OC)C=C1 | C22H18N2O3S
